US07973026B2
Step 2: Methyl 5-[(E)-2-(dimethylamino)ethenyl]-4-nitrothiophene-2-carboxylate
A 0.3M solution of methyl 5-methyl-4-nitrothiophene-2-carboxylate in dry DMF was treated with N,N-dimethylformamide dimethoxy acetal (10 eq.) overnight at 110° C. Evaporation to dryness gave a residue that was used as such. 1H-NMR (300 MHz, CDCl3, 300 K, δ) 8.32 (s, 1H), 7.53 (d, 1H, J 13.4), 6.77 (d, 1H, J 13.4), 4.08 (s, 3H), 3.29 (s, 6H); MS (ES+) m/z 257 (M+H)+.

reactant | methyl 5-methyl-4-nitrothiophene-2-carboxylate | CC1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C7H7NO4S
reactant | N,N-dimethylformamide dimethoxy acetal | 10 eq. | COOC(N(C)C)OOC | C5H13NO4
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 5-[(E)-2-(dimethylamino)ethenyl]-4-nitrothiophene-2-carboxylate | CN(/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
